US08080580B2
To a well stirred solution of (5-bromo-2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone (22.5 g, 72.80 mmol) and triethylsilane (27.9 mL, 20.3 g, 175.0 mmol) in dichloromethane (20 mL) and acetonitrile (60 mL) at 0° C. was added boron trifluoride etherate (32.0 mL, 36.2 g, 255.0 mmol) dropwise. Boron trifluoride etherate was added at a rate so that the internal temperature did not exceed 20° C. The reaction solution was warmed to room temperature and stirred overnight. After a total of 18 hours, a solution of potassium hydroxide (5.0 g) in water (15.0 mL) was added and the resulting mixture was stirred for 2 hours. The organic phase was separated and the aqueous phase was extracted two times with diethyl ether. The combined organic phases were washed once with aqueous 1M sodium hydroxide solution and once with brine. The organic phase was dried over sodium sulfate, filtered, and concentrated under reduced pressure. Upon addition of ethanol to the resulting residue a white solid formed. The solid was collected and dried under high vacuum to afford 4-bromo-1-fluoro-2-(4-methoxy-benzyl)-benzene (20.1 g, 93% yield) as a white solid.

reactant | (5-bromo-2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone | 72.80 mmol, 22.5 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)F | C14H10BrFO2
reactant | triethylsilane | 175.0 mmol, 27.9 mL, 20.3 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 255.0 mmol, 32.0 mL, 36.2 g | B(F)(F)F.CCOCC
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | water | 15.0 mL | O | H2O
product | 4-bromo-1-fluoro-2-(4-methoxy-benzyl)-benzene | 20.1 g, 93% yield | BrC1=CC(=C(C=C1)F)CC1=CC=C(C=C1)OC | C14H12BrFO
